US07419984B2
To a mixture of 2-methyl-5-bromo-phenylboronic acid (7.0 g, 32.6 mmol), 2-amino-4,6-dichloropyrimidine (6.95 g, 42.4 mmol), and degassed ethylene glycol dimethyl ether (150 ml) was added a solution of sodium carbonate (17.3 g, 163 mmol) in water (50 ml). The mixture was stirred vigorously and palladium acetate (0.73 g, 3.26 mmol) was added followed by triphenylphosphine (1.71 g, 6.52 mmol). After stirring for 16 hours, the mixture was diluted with water (100 ml) and extracted with ethyl acetate (3×100 ml). The combined extracts were washed with water (100 ml), dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate-hexane (1:4) to provide 2-amino-4-chloro-6-(2-methyl-5-bromo-phenyl)-pyrimidine (7.8 g, 80% yield) as a pale yellow powder. 1H NMR (DMSO-d6) δ 7.58 (d, J=2.0 Hz, 1H), 7.55 (dd, J=2.0, 8.1 Hz, 1H), 7.28 (d, J=8.1 Hz, 1H), 7.26 (br s, 2H), 6.86 (s, 1H), 2.32 (s, 3H).

reactant | 2-methyl-5-bromo-phenylboronic acid | 32.6 mmol, 7.0 g | CC1=C(C=C(C=C1)Br)B(O)O | C7H8BBrO2
reactant | 2-amino-4,6-dichloropyrimidine | 42.4 mmol, 6.95 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | sodium carbonate | 163 mmol, 17.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 6.52 mmol, 1.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
catalyst | palladium acetate | 3.26 mmol, 0.73 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-amino-4-chloro-6-(2-methyl-5-bromo-phenyl)-pyrimidine | 7.8 g, 80% yield | NC1=NC(=CC(=N1)Cl)C1=C(C=CC(=C1)Br)C | C11H9BrClN3
